US03991087
8-Acetyl-8-phenyl-12-benzyloxyheptadecanoic acid (1.42 g., slightly impure) is dissolved in EtOH (50 ml.), and is hydrogenated over 10% palladium on carbon at atmospheric pressure and 25° C. The hydrogenation is stopped after 2 hours, the catalyst is filtered off, and the solvent is removed in vacuo to obtain the product as a crude viscous yellowish oil. This oil is chromatographed through a silica gel column (CHCl3) to obtain 8-acetyl-8-phenyl-12-hydroxyheptadecanoic acid as a virtually colorless oil (350 mg.).

reactant | 8-Acetyl-8-phenyl-12-benzyloxyheptadecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)(CCCC(CCCCC)OCC1=CC=CC=C1)C1=CC=CC=C1 | C32H46O4
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 8-acetyl-8-phenyl-12-hydroxyheptadecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)(CCCC(CCCCC)O)C1=CC=CC=C1 | C25H40O4
